**************** Power Discrete MOSFET Electrical Circuit Model *****************
* Product Name: FQP27P06
* 60V P-Channel MOSFET and TO-220
*--------------------------------------------------------------------------------
*                D  G  S
.SUBCKT FQP27P06 20 10 30
Rg 10 1  1.58
M1 2 1 3 3 DMOS  L=1u  W=1u
.MODEL DMOS PMOS (VTO=(.00298*TEMP-3.174) KP=-0.0068*TEMP+10.4
+ THETA=0.0576  VMAX=3.0E5  ETA=0.004  LEVEL=3)
Cgs 1 3 990p
Rd 20 4 0.018  TC=0.0055
Dds 4 3 DDS
.MODEL DDS D(BV=(0.05850*TEMP+58.5375)  M=0.44   CJO=1380p   VJ=0.76)
Dbody 20 3 DBODY
.MODEL DBODY D(IS=3.0E-13  N=1.0  RS=0.036  EG=1.18  TT=105n)
Ra 4 2  0.018  TC=0.0055
Rs 3 5  0.002
Ls 5 30 2.6n
M2 1 8 6 6 INTER
E2 8 6 4 1 2
.MODEL INTER PMOS (VTO=0 KP=10 LEVEL=1)
Cgdmax 7 4 1560p
Rcgd 7 4 1E7
Dgd  4 6 DGD
Rdgd 4 6 1E7
.MODEL DGD D(M=0.42 CJO=1560p VJ=0.24)
M3 7 9 1 1 INTER
E3 9 1 4 1 -2
.ENDS