.SUBCKT IPD70P04P4L_08 drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 dZth=0 Ls=1.5n Ld=1n Lg=3n

.PARAM Rs=769u      Rg=5.0       Rd=50u       Rm=290u
.PARAM Inn=70       Unn=10       Rmax=7.5m    gmin=54
.PARAM RRf=390m     Rrbond=12m   Rtb=5.5      g2=758m
.PARAM act=3.95

.FUNC   Pb(I,dT,Rb)  {Rb/(2*Rtb)*(I-limit((dT/(max(I,1n)*Rb)+RRf*I)*g2,0,I))**2}

X_1 d1 g s Tj P4_40_r1_var PARAMS: a={act} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
+                                  Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
R_g   g1     g    {Rg}   
L_g   gate   g1   {Lg*if(dgfs==99,0,1)}
G_s   s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m)-Rm)}
R_sa  s1     s    1Meg
L_s   source s1   {Ls*if(dgfs==99,0,1)}
R_da  d1     d2   {Rd}
L_d   drain  d2   {Ld*if(dgfs==99,0,1)}
R_sb  source s1    10
R_ga  gate   g1    10
R_db  drain  d2    10

G_th  0    Tb  VALUE={Pb(abs(I(L_s)),V(Tj,Tcase),Rrbond*(1+(limit((V(Tb)+V(Tj))/2,-200,999)-25)*4m))}
C_thb Tb      0               3.71m
R_thb Tb      Tj              {Rtb} 
R_th1 Tj      t1              {7.07m+limit(dZth,0,1)*2.62m}
R_th2 t1      t2              {86.86m+limit(dZth,0,1)*32.15m}
R_th3 t2      t3              {318.4m+limit(dZth,0,1)*111.52m}
R_th4 t3      t4              {361.86m+limit(dZth,0,1)*322.51m}
R_th5 t4      Tcase           {400.27m+limit(dZth,0,1)*356.74m}
C_th1 Tj      0               34.37u
C_th2 t1      0               153.609u
C_th3 t2      0               1.075m
C_th4 t3      0               696.065u
C_th5 t4      0               25.491m
C_th6 Tcase   0               70m

.ENDS