* D:\Users\denis\OneDrive\Escritorio\-\Estudios\Facultad\Actuales\Tesis\Simulador\Esquematicos\Matriz3x2_prototipo.asc
* Generated by LTspice 24.1.10 for Windows.
Q11_3 N064 N068 0 0 MMBT2222A
R11_5 N060 N064 33k
R11_4 N054 N060 4.7k
Q14_1 N058 N061 0 0 MMBT2222A
R11_3 N051 N058 1Meg
R11_2 out_1 N051 10Meg
R11_6 N068 N067 20k
Vcell11 N049 N055 3.3
Q11_2 N054 N051 out_1 0 MMBT2907A
X§S11 out_neg N060 N055 IRLB8721 ;§pnba D)G)S
Q12_3 N065 N070 0 0 MMBT2222A
R12_5 N063 N065 33k
R12_4 N056 N063 4.7k
Q12_1 N059 N062 0 0 MMBT2222A
R12_3 N052 N059 1Meg
R12_2 out_1 N052 10Meg
R12_6 N070 N069 20k
Vcell12 N050 N057 3.3
Q12_2 N056 N052 out_1 0 MMBT2907A
X§S12 out_neg N063 N057 IRLB8721 ;§pnba D)G)S
Q21_3 N040 N043 0 0 MMBT2222A
R21_5 N037 N040 33k
R21_4 N029 N037 4.7k
Q21_1 N031 N033 0 0 MMBT2222A
R21_3 N024 N031 1Meg
R21_2 out_2 N024 10Meg
R21_6 N043 N042 20k
Vcell21 N026 N035 3.3
Q21_2 N029 N024 out_2 0 MMBT2907A
X§S21 out_1 N037 N035 IRLB8721 ;§pnba D)G)S
Q22_3 N041 N045 0 0 MMBT2222A
R22_5 N038 N041 33k
R22_4 N030 N038 4.7k
Q22_1 N032 N034 0 0 MMBT2222A
R22_3 N025 N032 1Meg
R22_2 out_2 N025 10Meg
R22_6 N045 N044 20k
Vcell22 N027 N036 3.3
Q22_2 N030 N025 out_2 0 MMBT2907A
X§S22 out_1 N038 N036 IRLB8721 ;§pnba D)G)S
Vcontrol1 VcMAS 0 PULSE(0 5 0 1p 1p 10m 20m)
Vcontrol2 VcMENOS 0 PULSE(0 5 10m 1p 1p 10m 20m)
Voff VcOFF 0 0
Von VcON 0 5
R11_1 N061 VcMAS 20k
R21_1 N033 VcMENOS 20k
R22_1 N034 VcMENOS 20k
R12_1 N062 VcMAS 20k
RL out_pos out_neg 1k
Rout12 out_1 N050 1
Rout11 out_1 N049 1
Rout21 out_2 N026 1
Rout22 out_2 N027 1
Q1_1 N048 N066 0 0 MMBT2222A
R1_9 N066 VcMENOS 20k
R1_8 N053 N048 300K
R1_7 out_1 N053 570K
Q2_1 N028 N046 0 0 MMBT2222A
R2_9 N046 VcMAS 20k
R2_8 N039 N028 300K
R2_7 out_2 N039 570K
X§S1 out_neg N053 out_1 AO3401A ;§pnba D)G)S
X§S2 out_1 N039 out_2 AO3401A ;§pnba D)G)S
J§Q1_2 out_1 N048 N053 MMBFJ201
J§Q2_2 out_2 N028 N039 MMBFJ201
X§D2 N039 out_2 1N4736A ;§pnba +)-
X§D22 N038 out_2 1N4736A ;§pnba +)-
X§D21 N037 out_2 1N4736A ;§pnba +)-
X§D11 N060 out_1 1N4736A ;§pnba +)-
X§D12 N063 out_1 1N4736A ;§pnba +)-
X§D1 N053 out_1 1N4736A ;§pnba +)-
Vcontrol3 VcMAS_delayed 0 PULSE(0 5 1m 1p 1p 10m 20m)
Vcontrol4 VcMENOS_delayed 0 PULSE(0 5 10.1m 1p 1p 10m 20m)
CL out_pos N047 1µ
RL2 N047 out_neg 1m
X§Sgnd11 N055 N060 0 IRLB8721 ;§pnba D)G)S
X§Sgnd12 N057 N063 0 IRLB8721 ;§pnba D)G)S
Q31_1 N017 N020 0 0 MMBT2222A
R31_5 N014 N017 33k
R31_4 N006 N014 4.7k
Q2 N008 N010 0 0 MMBT2222A
R31_3 N001 N008 1Meg
R31_2 out_pos N001 10Meg
R31_6 N020 N019 20k
Vcell31 N003 N012 3.3
Q31_2 N006 N001 out_pos 0 MMBT2907A
X§S31 out_2 N014 N012 IRLB8721 ;§pnba D)G)S
Q32_1 N018 N022 0 0 MMBT2222A
R32_5 N015 N018 33k
R32_4 N007 N015 4.7k
Q5 N009 N011 0 0 MMBT2222A
R32_3 N002 N009 1Meg
R32_2 out_pos N002 10Meg
R32_6 N022 N021 20k
Vcell32 N004 N013 3.3
Q32_2 N007 N002 out_pos 0 MMBT2907A
X§S32 out_2 N015 N013 IRLB8721 ;§pnba D)G)S
R31_1 N010 VcMENOS 20k
R32_1 N011 VcMENOS 20k
Rout31 out_pos N003 1
Rout32 out_pos N004 1
Q3_1 N005 N023 0 0 MMBT2222A
R3_9 N023 VcMAS 20k
R3_8 N016 N005 300K
R3_7 out_pos N016 570K
X§S3 out_2 N016 out_pos AO3401A ;§pnba D)G)S
J§Q3_2 out_pos N005 N016 MMBFJ201
X§D3 N016 out_pos 1N4736A ;§pnba +)-
X§D32 N015 out_pos 1N4736A ;§pnba +)-
X§D31 N014 out_pos 1N4736A ;§pnba +)-
A1 VcMENOS 0 0 0 0 N019 0 0 BUF
A2 VcMENOS 0 0 0 0 N021 0 0 BUF
A3 VcMENOS 0 0 0 0 N044 0 0 BUF
A4 VcMENOS 0 0 0 0 N042 0 0 BUF
A5 VcMAS 0 0 0 0 N067 0 0 BUF
A6 VcMAS 0 0 0 0 N069 0 0 BUF
.model NPN NPN
.model PNP PNP
.lib C:\Users\---\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\---\AppData\Local\LTspice\lib\cmp\standard.jft
.tran 0 40m 0 10u
.MODEL MMBT2222A  NPN (IS=25.4f NF=1.00 BF=274 VAF=114 IKF=0.121 ISE=14.3p NE=2.00 BR=4.00 NR=1.00 VAR=24.0 IKR=0.300 RE=0.219 RB=0.877 RC=87.7m XTB=1.5 CJE=27.6p VJE=1.10 MJE=0.500 CJC=14.2p VJC=0.300 MJC=0.300 TF=622p TR=124n EG=1.12)
.MODEL MMBT2907A  PNP (IS=60.7f NF=1.00 BF=312 VAF=139 IKF=0.219 ISE=26.0p NE=2.00 BR=4.00 NR=1.00 VAR=20.0 IKR=0.540 RE=85.8m RB=0.343 RC=34.3m XTB=1.5 CJE=50.4p VJE=1.10 MJE=0.500 CJC=23.1p VJC=0.300 MJC=0.300 TF=758p TR=123n EG=1.12)
.model AONS32304 VDMOS(Kp=239 Rs=0.42m Rd=1.2m Rg=3.0 Vto=2.16 VtoTc=-2.8m Bex=-2.07 mtriode=1.1 Ksubthres=0.1 Lambda=0.158 Cgdmax=1420p Cgdmin=288p Cgs=5352p tt=19n A=0.7 Is=2.35E-11 N=1.017 Eg=1.07 Rb=0.1m Trb1=-1 BV=33 IBV=250u M=0.456 Vj=0.56 Cjo=1090.0pF mfg=AOS Vds=30 Ron=1.8m Qg=40n)
.model MMBFJ201 NJF(BETA=0.000896 IS=3E-12 VTO=-0.794 LAMBDA=0.02 RD=0.001 RS=0.0013)
.inc AO3401A.sub
.inc IRLB8721.sub
.inc 1N4736A.sub
* .options plotwinsize=0\n.options numdgt=6\n.options reltol=0.001 abstol=1u\n.options solver=alternate
.backanno
.end
