.SUBCKT AO3401A D G S

RG G GI 2
M1 D GI S S AO3401A_PMOS
CGS GI S 590p
CGD GI D 55p
CDS D S 25p
DBODY D S AO3401A_DIODE

.MODEL AO3401A_PMOS PMOS (
+ LEVEL=1
+ VTO=-0.9
+ KP=7.5
+ LAMBDA=0.02
+ RD=10m
+ RS=10m )

.MODEL AO3401A_DIODE D (
+ IS=1e-12
+ RS=20m
+ N=1
+ CJO=80p
+ TT=11n
+ BV=30
+ IBV=100u )

.ENDS AO3401A