*SRC=1N4730A;DI_1N4730A;Diodes;Zener <=10V; 3.90V  1.00W   Diodes Inc. Zener
*SYM=HZEN
.SUBCKT DI_1N4730A  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 1.63
.MODEL DF D ( IS=106p RS=0.620 N=1.10
+ CJO=283p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=21.1f RS=0.645 N=3.00 )
.ENDS