********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*25-Jun-2018
*ECN S18-0632, Rev. A
*File Name: SiDR140DP_PS.txt and SiDR140DP_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SiDR140DP D G S 
M1 3 GX S S NMOS W= 23850000u L= 0.30u 
M2 S GX S D PMOS W= 23850000u L= 0.13u 
R1 D 3 4.408e-04 TC=5.235e-03,4.306e-06
CGS GX S 3.488e-09 
CGD GX D 1.008e-13 
RG G GY 0.38 
RTCV 100 S 1e6 TC=1.056e-04,-5.959e-06
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD S D DBD 23850000u 
**************************************************  
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 KP = 1.741e-05 NSUB = 8.906e+16 
+ KAPPA = 1.333e-03 NFS = 1.082e+11 
+ LD = 0 IS = 0 TPG = 1    )
************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 3.324e+16 IS = 0 TPG = -1    )
************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 8.240e-08 T_measured = 25 BV = 26
+RS = 9.093e-03 N = 9.060e-01 IS = 1.000e-13 
+EG = 7.299e-01 XTI = 1.000e+01 TRS1 = 1.000e-05
+CJO = 4.017e-10 VJ = 5.002e+00 M = 8.344e-01 ) 
.ENDS 
